US06858639B2
2.83 g (8.0 mmol) of 2-(2,2,2-trifluoroethylthio)-4-(3-trifluoromethylpyrazolyl)benzaldehyde (Compound No. V-275 of the present invention) prepared in the same manner as in Example 8 (9), 2.85 g (8.0 mmol) of methyltriphenylphosphonium bromide and 1.38 g (10.0 mmol) of potassium carbonate were refluxed in a solvent mixture of 20 ml of dioxane and 0.3 ml of water with heating for 5 hours. After cooling down to room temperature, the insolubles were filtered off, and the dioxane was distilled off under reduced pressure. Purification of the residue by silica gel column chromatography afforded 1.23 g of [2-ethenyl-5-(3-trifluoromethylpyrazolyl)phenyl] 2,2,2-trifluoroethyl sulfide (yield 43.8%) as a pale yellow liquid (nD20 1.5328).

reactant | 2-(2,2,2-trifluoroethylthio)-4-(3-trifluoromethylpyrazolyl)benzaldehyde | 8.0 mmol, 2.83 g | FC(CSC1=C(C=O)C=CC(=C1)C=1C(=NNC1)C(F)(F)F)(F)F | C13H8F6N2OS
reactant | potassium carbonate | 10.0 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | methyltriphenylphosphonium bromide | 8.0 mmol, 2.85 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 0.3 ml | O | H2O
product | [2-ethenyl-5-(3-trifluoromethylpyrazolyl)phenyl] 2,2,2-trifluoroethyl sulfide | 1.23 g, yield 43.8% | FC(CSC1=C(C=CC(=C1)C=1C(=NNC1)C(F)(F)F)C=C)(F)F | C14H10F6N2S
